US04052451
reacting the beta-alanine and potassium sulfate mixture with calcium methoxide under substantially anhydrous conditions to form calcium beta alanate;

reactant | beta-alanine | NCCC(=O)O | C3H7NO2
reactant | potassium sulfate | S(=O)(=O)([O-])[O-].[K+].[K+]
reactant | calcium methoxide | C[O-].[Ca+2].C[O-]
product | calcium beta alanate | C(CN)C(=O)[O-].C(CN)C(=O)[O-].[Ca+2] | InChI=1S/2C3H7NO2.Ca/c2*4-2-1-3(5)6;/h2*1-2,4H2,(H,5,6);/q;;+2/p-2
